US08729263B2
Step 3: 6-(2,6-Dimethoxy-4-(1H-pyrazol-4-yl)phenyl)-N-methyl-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyridazin-3-amine
6-(4-Bromo-2,6-dimethoxyphenyl)-N-methyl-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyridazin-3-amine (63 mg, 0.136 mmol) and 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (52.8 mg, 0.272 mmol) were reacted according to GENERAL METHOD 1-5 for Suzuki coupling. The title compound was obtained as a yellow solid after column chromatography (43 mg, 70% yield). MS (M+1)=451.5.

reactant | 6-(4-Bromo-2,6-dimethoxyphenyl)-N-methyl-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyridazin-3-amine | 0.136 mmol, 63 mg | BrC1=CC(=C(C(=C1)OC)C1=CC=C(N=N1)N(C1CC(NC(C1)(C)C)(C)C)C)OC | C22H31BrN4O2
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.272 mmol, 52.8 mg | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
product | 6-(2,6-Dimethoxy-4-(1H-pyrazol-4-yl)phenyl)-N-methyl-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyridazin-3-amine | 70% yield | COC1=C(C(=CC(=C1)C=1C=NNC1)OC)C1=CC=C(N=N1)N(C1CC(NC(C1)(C)C)(C)C)C | C25H34N6O2
